*
*******************************************
*
*PMEG6010ELR
*
*NXP Semiconductors
*
*60V, 1A low leakage current Schottky barrier rectifiers
*
*
*
*
*IFSM = 50A   @ tp = 8ms
*VF   = 605mV @ IF = 1A
*
*
*
*
*
*
*
*
*
*
*Package pinning does not match Spice model pinning.
*Package: SOT123W
*
*Package Pin 1: Cathode
*Package Pin 2: Anode    
*
*
*
*
*Simulator: SPICE3
*
*******************************************
*#
.SUBCKT PMEG6010ELR 1 2
*
* The resistor R1 and the diode D2 do not reflect
* physical devices. Instead they
* improves modeling in the reverse
* mode of operation.
*
R1 1 2 1.6E+009
D1 1 2 DIODE1 
D2 1 2 DIODE2
*
.MODEL DIODE1 D
+ IS = 9E-010
+ N = 0.94
+ BV = 74
+ IBV = 0.0006102
+ RS = 100
+ CJO = 1.659E-010
+ VJ = 0.7
+ M = 0.5
+ FC = 0
+ TT = 0
+ EG = 0.69
+ XTI = 2
.MODEL DIODE2 D
+ IS = 2E-009
+ N = 1.02
+ RS = 0.09
.ENDS
*
